US07544703B2
N-(3,5-Dimethylphenyl)-2-(2-formylaminopyridin-4-ylmethylthio)pyridine-3-carboxamide (Compound No. 6-1)
2-(2-Aminopyridin-4-ylmethylthio)-N-(3,5-dimethylphenyl)pyridine-3-carboxamide (the free base of Compound No. 3-1, 50 mg, 0.14 mmol) was dissolved in anhydrous tetrahydrofuran (0.20 mL), a solution of N-formylbenzotriazole (19 mg, 0.13 mmol) in anhydrous tetrahydrofuran (0.2 mL) was added thereto, and then the mixture was refluxed for 16 hours. The mixture was diluted with dichloromethane (15 mL), and then the whole was washed with 2 N aqueous sodium hydroxide solution (4.0 mL) twice and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give 60 mg of the target compound quantitatively as a colorless solid.

reactant | 2-(2-Aminopyridin-4-ylmethylthio)-N-(3,5-dimethylphenyl)pyridine-3-carboxamide | NC1=NC=CC(=C1)CSC1=NC=CC=C1C(=O)NC1=CC(=CC(=C1)C)C | C20H20N4OS
reactant | N-formylbenzotriazole | 0.13 mmol, 19 mg | C(=O)N1N=NC2=C1C=CC=C2 | C7H5N3O
solvent | tetrahydrofuran | 0.20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.2 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | N-(3,5-Dimethylphenyl)-2-(2-formylaminopyridin-4-ylmethylthio)pyridine-3-carboxamide | 60 mg | CC=1C=C(C=C(C1)C)NC(=O)C=1C(=NC=CC1)SCC1=CC(=NC=C1)NC=O | C21H20N4O2S
